US05457104
b) 2,4 -Difluoro-3- trifluoromethylbenzoyl chloride
19.3 g (0.085 mol) of 2,4-difluoro-3-trifluoromethylbenzoic acid are added in portions at room temperature to 130 ml of thionyl chloride. After metering has ended, the mixture is heated at 50° C. until the evolution of gas has ceased. The excess thionyl chloride is then removed by distillation and the crude product is reacted further directly.

reactant | 2,4-difluoro-3-trifluoromethylbenzoic acid | 0.085 mol, 19.3 g | FC1=C(C(=O)O)C=CC(=C1C(F)(F)F)F | C8H3F5O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2,4 -Difluoro-3- trifluoromethylbenzoyl chloride | FC1=C(C(=O)Cl)C=CC(=C1C(F)(F)F)F | C8H2ClF5O
